US04146630
Excess ethanolic hydrochloric acid is allowed to act upon 3-acetoxymethyl-4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-indazole, followed by precipitation with diethyl ether and recrystallization of the precipitate from ethanol. There is obtained, in a yield of 48% of theory, 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-3-hydroxymethylindazole dihydrochloride in the form of pale yellow crystals; m.p. 183° C. (decomp.).

reactant | hydrochloric acid | Cl | ClH
reactant | 3-acetoxymethyl-4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-indazole | C(C)(=O)OCC1=NNC2=CC=CC(=C12)OCC(CN1CCC(CC1)COC1=CC=CC=C1)O | C25H31N3O5
product | 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-3-hydroxymethylindazole dihydrochloride | yield of 48% | Cl.Cl.OC(COC1=C2C(=NNC2=CC=C1)CO)CN1CCC(CC1)COC1=CC=CC=C1 | InChI=1S/C23H29N3O4.2ClH/c27-14-21-23-20(24-25-21)7-4-8-22(23)30-16-18(28)13-26-11-9-17(10-12-26)15-29-19-5-2-1-3-6-19;;/h1-8,17-18,27-28H,9-16H2,(H,24,25);2*1H
